US08802659B2
6-(trans-4-tert-butylcyclohexyloxy)-5-(trifluoromethyl)-2-naphthaldehyde (300 mg, 0.96 mmol, 1 equiv) and 3-amino-N-(phenylsulfonyl)propanamide (1.19 mmol, 1.5 equiv) were dissolved in anhydrous ethanol. The mixture was stirred at 80° C. for 1 h. Then NaBH3CN (110 mg, 1.74 mmol, 2 equiv) was added to the mixture and stirred at 80° C. for 16 h. The organic layer was concentrated and purified by preparative thin layer chromatography (mobile phase was methanol:dichloromethane 1:10) to give 3-((6-(trans-4-tert-butylcyclohexyloxy)-5-(trifluoromethyl)naphthalen-2-yl)methylamino)-N-(phenylsulfonyl)propanamide as a white solid. 120 mg, white solid, 53%. ESI-MS: 591.0 (M+H)+. HPLC: 98.05%. 1H NMR (400 MHz, DMSO-d6) δ: 8.22˜8.13 (m, 1H), 8.11˜8.04 (m, 2H), 7.79˜7.63 (m, 4H), 7.45˜7.30 (m, 3H), 4.63˜4.49 (m, 1H), 4.27 (s, 2H), 2.99 (t, 2H), 2.32 (t, 2H), 2.19˜2.07 (m, 2H), 1.85˜1.74 (m, 2H), 1.45˜1.30 (m, 2H), 125˜1.12 (m, 2H), 1.10˜0.97 (m, 1H), 0.86 (s, 9H).

reactant | 6-(trans-4-tert-butylcyclohexyloxy)-5-(trifluoromethyl)-2-naphthaldehyde | 0.96 mmol, 300 mg, 1 equiv | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C(=C2C=CC(=CC2=CC1)C=O)C(F)(F)F | C22H25F3O2
reactant | 3-amino-N-(phenylsulfonyl)propanamide | 1.19 mmol, 1.5 equiv | NCCC(=O)NS(=O)(=O)C1=CC=CC=C1 | C9H12N2O3S
reactant | NaBH3CN | 1.74 mmol, 110 mg, 2 equiv | [BH3-]C#N.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 3-((6-(trans-4-tert-butylcyclohexyloxy)-5-(trifluoromethyl)naphthalen-2-yl)methylamino)-N-(phenylsulfonyl)propanamide | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C(=C2C=CC(=CC2=CC1)CNCCC(=O)NS(=O)(=O)C1=CC=CC=C1)C(F)(F)F | C31H37F3N2O4S
